US08975254B2
N—((R)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)thiazole-4-carboxamide
Sodium borohydride (29.3 mg, 0.773 mmol) was added into a flask and the atmosphere was replaced with nitrogen. Dry ethanol was added and the reaction mixture was cooled to 0° C. (R)-2-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide (160 mg, 0.387 mmol) was added and the reaction mixture was warmed slowly to RT while stirring overnight. The crude product was cooled to 0° C., the pH was adjusted to 6 and the mixture was evaporated. DCM and a few drops of methanol were added and the crude product was washed with 1M Na2CO3 and with water. The product was triturated using diethyl ether and DCM and heptane. Yield 33.3%. 1H-NMR (400 MHz; DMSO-d6): δ 1.09-1.17 (m, 3H), 1.45 (t, 3H), 2.38-4.53 (m, 3H), 4.92-5.02 (m, 1H), 6.23 (dd, 1H), 6.96 (dd, 1H), 7.85 (dd, 1H), 7.92-7.97 (m, 2H), 8.07-8.09 (m, 1H), 8.10 (d, 1H), 8.33-8.39 (m, 1H).

reactant | Sodium borohydride | 0.773 mmol, 29.3 mg | [BH4-].[Na+]
reactant | (R)-2-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide | 0.387 mmol, 160 mg | C(C)(=O)C=1SC=C(N1)C(=O)N[C@@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C19H16ClN5O2S
solvent | ethanol | C(C)O | C2H6O
product | N—((R)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)thiazole-4-carboxamide | Yield 33.3% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@@H](C)NC(=O)C=1N=C(SC1)C(C)O | C19H18ClN5O2S
